US07645789B2
N-(2-tert-Butyl-1H-indol-5-yl)-1-(4-methoxyphenyl)-cyclopropanecarboxamide
2-tert-Butyl-1H-indol-5-amine (19 mg, 0.10 mmol) and 1-(4-methoxyphenyl)-cyclopropanecarboxylic acid (19 mg, 0.10 mmol) were dissolved in N,N-dimethylformamide (1.00 mL) containing triethylamine (28 μL, 0.20 mmol). O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (42 mg, 0.11 mmol) was added to the mixture and the resulting solution was allowed to stir for 3 hours. The crude reaction mixture was filtered and purified by reverse phase HPLC. ESI-MS m/z calc. 362.2, found 363.3 (M+1)+; Retention time 3.48 minutes.

reactant | 2-tert-Butyl-1H-indol-5-amine | 0.10 mmol, 19 mg | C(C)(C)(C)C=1NC2=CC=C(C=C2C1)N | C12H16N2
reactant | 1-(4-methoxyphenyl)-cyclopropanecarboxylic acid | 0.10 mmol, 19 mg | COC1=CC=C(C=C1)C1(CC1)C(=O)O | C11H12O3
reactant | triethylamine | 0.20 mmol, 28 μL | C(C)N(CC)CC | C6H15N
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.11 mmol, 42 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 1.00 mL | CN(C=O)C | C3H7NO
product | N-(2-tert-Butyl-1H-indol-5-yl)-1-(4-methoxyphenyl)-cyclopropanecarboxamide | C(C)(C)(C)C=1NC2=CC=C(C=C2C1)NC(=O)C1(CC1)C1=CC=C(C=C1)OC | C23H26N2O2
